US06933311B2
N-1H-indazol-4-yl-N′-(1-naphthylmethyl)urea
Methyl 4-({[(1-naphthylmethyl)amino]carbonyl}amino)-1H-indazole-1-carboxylate in methanol was treated with 5M sodium hydroxide (8 equivalents) (prepared by dissolution of 1 gram of sodium hydroxide in 20 μL of methanol). After stirring for 30 minutes, the mixture was diluted with water (10 mL) and filtered. The filter cake was washed with water (10 mL), water:methanol (1:1), and dried under reduced pressure to provide the title compound. MS (M+H)+ 317.

reactant | Methyl 4-({[(1-naphthylmethyl)amino]carbonyl}amino)-1H-indazole-1-carboxylate | C1(=CC=CC2=CC=CC=C12)CNC(=O)NC1=C2C=NN(C2=CC=C1)C(=O)OC | C21H18N4O3
reactant | sodium hydroxide | 5M, 20 μL, 1 gram, 8 equivalents | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | 10 mL | O | H2O
product | N-1H-indazol-4-yl-N′-(1-naphthylmethyl)urea | N1N=CC2=C(C=CC=C12)NC(=O)NCC1=CC=CC2=CC=CC=C12 | C19H16N4O
